US04425350
15.7 g. (36.9 mMol) (±)-N-Trifluoroacetyl-6-hydroxy-7-methoxy-4-(3,4-dimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline are dissolved in 145 ml. dry methylene chloride and mixed with 145 ml. trifluoroacetic acid, while cooling with ice water and with the exclusion of moisture. A solution of 2.8 ml. (5.15 g., 29.73 mMol) vanadium oxytrichloride in 65 ml. anhydrous methylene chloride are added dropwise in the course of 10 minutes to this solution at -10° C., while stirring and in an inert gas atmosphere. After 30 minutes, a further addition of 2.8 ml. vanadium oxytrichloride in 65 ml. anhydrous methylene chloride takes place. The dark coloured reaction mixture is stirred for a further 10 minutes at -10° C. The TLC analysis (silica gel, chloroform/methanol 9:1 v/v) shows that the starting material is completely gone. The reaction mixture is concentrated in a vacuum in a rotary evaporator at ambient temperature to about one third of its original volume and the residue than partitioned between water and methylene chloride. After working up the extracts and crystallising the crude product from acetone, there is obtained (±)-5-trifluoroacetyl-5,6,6a,7-tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenz(de,g)isoquinoline in practically quantitative yield; m.p. 210°-217° C.

reactant | (±)-N-Trifluoroacetyl-6-hydroxy-7-methoxy-4-(3,4-dimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline | 36.9 mMol | FC(C(=O)N1CC2=CC(=C(C=C2C(C1)CC1=CC(=C(C=C1)OC)OC)O)OC)(F)F | C21H22F3NO5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | vanadium oxytrichloride | 29.73 mMol, 5.15 g | O=[V].Cl.Cl.Cl
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | (±)-5-trifluoroacetyl-5,6,6a,7-tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenz(de,g)isoquinoline | quantitative yield | FC(C(=O)N1CC2CC3=C(C4=C2C(C1)=CC(=C4O)OC)C=C(C(=C3)OC)OC)(F)F | C21H20F3NO5
